*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.20e-02[uF]/100[V]
* Murata P/N :GCM2195C2A123GE02
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C2A123GE02 Port1 Port2
C01 Port1 N01 1.21e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.62e-10
R03 N02 N03 3.19e-03
L04 N03 N04 3.63e-11
R04 N03 N04 2.93e+00
L05 N04 N05 9.04e-11
R05 N04 N05 2.06e-01
L06 N05 N06 8.53e-11
R06 N05 N06 6.05e-03
L07 N06 N07 8.88e-09
R07 N06 N07 1.65e-03
C08 N07 N08 3.87e-08
L08 N07 N08 3.70e-11
R08 N07 N08 2.15e-01
C09 N08 N09 1.66e-08
L09 N08 N09 3.29e-11
R09 N08 N09 2.63e-01
C10 N09 Port2 2.23e-12
L10 N09 Port2 1.18e-10
R10 N09 Port2 1.00e+05
.ENDS GCM2195C2A123GE02
